US05221762
A solution of 20.5 g (81 mmol) of 2-(2-methylphenoxymethyl)benzoyl cyanide in 80 ml of methylene chloride was added dropwise at 20°-25° C. to a mixture of 19.6 ml of 85% by weight sulfuric acid and 1.09 g (0.01 mol) of sodium bromide. 38.9 ml (0.95 mol) of methanol were then added to the mixture at 40° C., after which it was stirred at this temperature for 3 hours. HPLC analysis of a sample showed that the result was not methyl 2-(2-methylphenoxymethyl)phenylglyoxylate but a quantitative yield of methyl 2-(2-methylphenoxymethyl)-benzoate.

reactant | 2-(2-methylphenoxymethyl)benzoyl cyanide | 81 mmol, 20.5 g | CC1=C(OCC2=C(C(=O)C#N)C=CC=C2)C=CC=C1 | C16H13NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bromide | 0.01 mol, 1.09 g | [Br-].[Na+]
reactant | methanol | 0.95 mol, 38.9 ml | CO | CH4O
reactant | methyl 2-(2-methylphenoxymethyl)phenylglyoxylate | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)=O)C=CC=C1 | C17H16O4
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-methylphenoxymethyl)-benzoate | quantitative yield | CC1=C(OCC2=C(C(=O)OC)C=CC=C2)C=CC=C1 | C16H16O3
